US09079866B2
5-(4-Bromo-2,3-difluorophenyl)pyrimidin-2-amine
The title compound was prepared using analogous conditions to those described in 5-(4-chloro-2-fluorophenyl)pyrazin-2-amine using (4-bromo-2,3-difluorophenyl)boronic acid and 5-bromopyrimidin-2-amine. MS (ESI): mass calcd. for C10H6BrF2N3, 284.97; m/z found, 286.0 [M+H]+.

reactant | (4-bromo-2,3-difluorophenyl)boronic acid | BrC1=C(C(=C(C=C1)B(O)O)F)F | C6H4BBrF2O2
reactant | 5-bromopyrimidin-2-amine | BrC=1C=NC(=NC1)N | C4H4BrN3
solvent | 5-(4-chloro-2-fluorophenyl)pyrazin-2-amine | ClC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7ClFN3
product | 5-(4-Bromo-2,3-difluorophenyl)pyrimidin-2-amine | BrC1=C(C(=C(C=C1)C=1C=NC(=NC1)N)F)F | C10H6BrF2N3
